US06875765B2
A solution of S)-3-[4-fluoro-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonyl amino]-N-methoxy-N methyl-succinamic acid tert-butyl ester (1.10 g, 2.0 mmol) in pyrollidine (10 mL) was heated at 50° C. for 5 h. The reaction mixture was allowed to cool and then was added EtOAc (150 mL). The resulting solution was washed sequentially with the following solutions: 5% citric acid, saturated NaHCO3, and brine. The organic phase was dried (MgSO4), and then the solvent was removed under vacuum. The resulting crude product was purified using flash silica gel chromatography (25% EtOAc in hexanes). (S)-N-Methoxy-N-methyl-3-[2-(2-naphthalen-1-yl-ethoxy)-4-pyrrolidin-1-yl-benzenesulfonyl amino]-succinamic acid tert-butyl ester was obtained in 81% yield (1.0 g) as a off white foam. MS (APCI) m/z 610.3 (M−1).

reactant | 3-[4-fluoro-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonyl amino]-N-methoxy-N methyl-succinamic acid tert-butyl ester | 2.0 mmol, 1.10 g | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)F)OCCC1=CC=CC2=CC=CC=C12)=O | C28H33FN2O7S
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
reactant | pyrollidine | 10 mL | N1CCCC1 | C4H9N
product | (S)-N-Methoxy-N-methyl-3-[2-(2-naphthalen-1-yl-ethoxy)-4-pyrrolidin-1-yl-benzenesulfonyl amino]-succinamic acid tert-butyl ester | 81% yield | C(C)(C)(C)OC(C[C@@H](C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)N1CCCC1)OCCC1=CC=CC2=CC=CC=C12)=O | C32H41N3O7S
